US09399646B2
Step 3: 3-(4-Iodophenyl)-5-(methoxymethoxy)isoxazole
Sodium hydride (360 mg, 9.0 mmol, 60% in mineral oil) was added into a solution of 3-(4-iodophenyl)isoxazol-5(4H)-one (2.0 g, 6.97 mmol) in anhydrous THF (20 mL) at 0° C. The mixture was stirred at 0° C. for 2 h. Chloro(methoxy)methane (1.12 g, 14 mmol) was added dropwise at 0° C. The reaction mixture was stirred at room temperature for 2 h, poured into ice-water, and extracted with EtOAc (3×60 mL). The combined organic layers were dried over MgSO4 and concentrated in vacuo. The residue was purified on a silica gel column using EtOAc in petroleum ether (1:20) to afford the title compound as pale solid (960 mg, 42%). 1H NMR (DMSO-d6, 400 MHz): δ 7.96 (d, 2H), 7.45 (d, 2H), 5.99 (s, 1H), 4.95 (s, 2H), 3.27 (s, 3H). LCMS: 332 (M+H)+.

reactant | Sodium hydride | 9.0 mmol, 360 mg | [H-].[Na+]
reactant | 3-(4-iodophenyl)isoxazol-5(4H)-one | 6.97 mmol, 2.0 g | IC1=CC=C(C=C1)C1=NOC(C1)=O | C9H6INO2
reactant | Chloro(methoxy)methane | 14 mmol, 1.12 g | ClCOC | C2H5ClO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(4-Iodophenyl)-5-(methoxymethoxy)isoxazole | 960 mg, 42% | IC1=CC=C(C=C1)C1=NOC(=C1)OCOC | C11H10INO3
